US05270313
200 mg of p-chloro-N-[6-(2-hydroxyethoxy)-5-(p-nitrophenyl)-4-pyrimidinyl]benzenesulfonamide in 15 ml of glacial acetic acid and 2 ml of 4N HCl in dioxane were hydrogenated over 50 mg of palladium-carbon (10%) at room temperature and normal pressure. After filtering the catalyst under suction, the solution was evaporated under reduced pressure. The residue was dissolved in 30 ml of methanol and the solution was treated with 1 ml of dioxane-HCl. After 16 hours, the solution was evaporated under reduced pressure and the residue was recrystallized from methanol and acetonitrile. There was obtained N-[5-(p-aminophenyl)-6-(2-hydroxyethoxy)-4-pyrimidinyl]-p-chlorobenzenesulfonamide hydrochloride, melting point 206° C. (with decompositon).

reactant | p-chloro-N-[6-(2-hydroxyethoxy)-5-(p-nitrophenyl)-4-pyrimidinyl]benzenesulfonamide | 200 mg | ClC1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC(=C1C1=CC=C(C=C1)[N+](=O)[O-])OCCO | C18H15ClN4O6S
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
solvent | HCl | 4N, 2 ml | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | palladium-carbon | 50 mg | [C].[Pd]
product | N-[5-(p-aminophenyl)-6-(2-hydroxyethoxy)-4-pyrimidinyl]-p-chlorobenzenesulfonamide hydrochloride | Cl.NC1=CC=C(C=C1)C=1C(=NC=NC1OCCO)NS(=O)(=O)C1=CC=C(C=C1)Cl | InChI=1S/C18H17ClN4O4S.ClH/c19-13-3-7-15(8-4-13)28(25,26)23-17-16(12-1-5-14(20)6-2-12)18(22-11-21-17)27-10-9-24;/h1-8,11,24H,9-10,20H2,(H,21,22,23);1H
